US06713474B2
A mixture of trans-5-(3-amino-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (120 mg, 0.241 mmol) in pyridine (2 mL) and dichloromethane (2 mL) was cooled to 0° C. then treatd with acetyl chloride (25 mg, 0.3 mmol). The mixture was warmed to ambient temperature for one hour then the solvents were removed under reduced pressure and the residue purified by preparative RP-HPLC to give trans-N1-(5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxyphenyl)acetamide acetate (45 mg, 35%): 1H NMR (DMSO-d6, 400 MHz) δ 9.67 (bs, 1H), 8.11(s, 1H), 8.00(s, 1H), 7.40(t, 3H), 7.17(m, 2H), 7.05(d, 2H), 6.95(d, 1H), 6.30(bs, 2H), 4.55(m, 1H), 2.2-2.6(m, 9H), 2.14(s, 3H), 2.04(s, 3H), 1.8-2.0(m, 6H), 1.89(s, 3H), 1.44(m, 2H); MS MH+540.5; RP-HPLC (Hypersil HS, 5 μm, 1000 A, 4.6×250 mm; 5%-50% acetonitrile—0.05 M ammonium acetate over 25 min, 1 ml/min) tr 20.37 min.

reactant | trans-5-(3-amino-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.241 mmol, 120 mg | NC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C29H35N7O
reactant | acetyl chloride | 0.3 mmol, 25 mg | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | trans-N1-(5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxyphenyl)acetamide acetate | 45 mg, 35% | C(C)(=O)O.NC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C2)NC(C)=O)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C31H37N7O2.C2H4O2/c1-21(39)35-27-18-22(8-13-28(27)40-25-6-4-3-5-7-25)26-19-38(31-29(26)30(32)33-20-34-31)24-11-9-23(10-12-24)37-16-14-36(2)15-17-37;1-2(3)4/h3-8,13,18-20,23-24H,9-12,14-17H2,1-2H3,(H,35,39)(H2,32,33,34);1H3,(H,3,4)/t23-,24-;
